US08957062B2
Step B: benzyl 4-((1R,2S)-2-{-[(5-amino-3-methylpyridin-2-yl)oxy]ethyl}cyclopropyl)piperidine-1-carboxylate
To the solution of NiCl2 (Nickel (II) Chloride-hexahydrate, 1.03 g, 4.32 mmol) in 40 ml of methanol was added 150 mg of NaBH4 (it turned dark) at RT and the mixture stirred 5 minutes. Benzyl 4-((1R,2S)-2-{-[(3-methyl-5-nitropyridin-2-yl)oxy]ethyl}cyclopropyl)piperidine-1-carboxylate (1.90 g, 4.32 mmol) in 15 ml of DCM was added followed by the addition of another 116 mg of NaBH4 in 3 portions. The resulting mixture was then stirred for 40 minutes. The reaction was then diluted with DCM and filtered through a celite and silica gel pad. The filtrate was concentrated in vacuo and the residue was partitioned between saturated NaHCO3 aqueous solution and DCM. The organics were separated, dried over sodium sulfate, filtered and the filtrate concentrated under reduced pressure to afford the title compound as a crude product which was used for the next step. LC/MS (m/z): 410 (M+H)+.

reactant | NaBH4 | 150 mg | [BH4-].[Na+]
reactant | Benzyl 4-((1R,2S)-2-{-[(3-methyl-5-nitropyridin-2-yl)oxy]ethyl}cyclopropyl)piperidine-1-carboxylate | 4.32 mmol, 1.90 g | CC=1C(=NC=C(C1)[N+](=O)[O-])OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C24H29N3O5
reactant | NaBH4 | 116 mg | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | NiCl2 | 4.32 mmol, 1.03 g | Cl[Ni]Cl
product | benzyl 4-((1R,2S)-2-{-[(5-amino-3-methylpyridin-2-yl)oxy]ethyl}cyclopropyl)piperidine-1-carboxylate | NC=1C=C(C(=NC1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C24H31N3O3
